US04112098
2-[1-(Hydroxyimino)ethyl]pyrazolo[1,5-c]quinazolin-5(6H)-one
1.5 g (0.0066 mole) of 1-acetylpyrazolo[1,5-c]quinazolin-5(6H)-one and 2.8 g of hydroxylamine hydrochloride in pyridine are stirred overnight at room temperature. The reaction mixture is poured into 450 ml ice-water and stirred for 30 minutes. The fine white precipitates that form are filtered off, washed well with water and dried in vacuo at ~90° for 20 hours. Yield: 1.4 g, m.p. 340°-342°; 87.5%.

reactant | 1-acetylpyrazolo[1,5-c]quinazolin-5(6H)-one | 0.0066 mole, 1.5 g | C(C)(=O)C=1C=NN2C(NC=3C=CC=CC3C21)=O | C12H9N3O2
reactant | hydroxylamine hydrochloride | 2.8 g | Cl.NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[1-(Hydroxyimino)ethyl]pyrazolo[1,5-c]quinazolin-5(6H)-one | ON=C(C)C1=NN2C(NC=3C=CC=CC3C2=C1)=O | C12H10N4O2
